US08071588B2
A mixture of 1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]cyclopropanecarboxylic acid (800 mg, 1.925 mmol), [[[(3-bromo-4-fluorophenyl)methyl]amine 1-(3-bromo-4-fluorophenyl)methanamine (393 mg, 1.925 mmol), HBTU (876 mg, 2.311 mmol) and Et3N (1.342 mL, 9.63 mmol) in DCM (15 mL) was stirred at room temperature overnight. The reaction mixture was quenched with saturated NaHCO3 and extracted with DCM twice. The combined organic layers were washed with brine and then concentrated under vacuum to give a crude residue. It was then purified using a CombiFlash Companion by eluting with 0 to 100% ethyl acetate in hexane (product came out at 100% ethyl acetate in hexane). The product fractions were combined and purified with a Gilson HPLC (acidic conditions: 0.1% TFA in the solvents), eluting with 10 to 70% CH3CN in water at a flow rate of 20 mL/min. The product fractions were combined and washed with saturated NaHCO3 and extracted with ethyl acetate twice. The combined organic layers were dried over sodium sulfate, filtered and then concentrated under vacuum to give N1-[(3-bromo-4-fluorophenyl)methyl]-N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,1-cyclopropanedicarboxamide (460 mg, 76.5%). LC-MS m/z 601 (M+H)+, 0.88 min (ret time).

reactant | 1-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]cyclopropanecarboxylic acid | 1.925 mmol, 800 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2(CC2)C(=O)O)CC | C21H29N5O4
reactant | [(3-bromo-4-fluorophenyl)methyl]amine 1-(3-bromo-4-fluorophenyl)methanamine | 1.925 mmol, 393 mg | BrC=1C=C(C=CC1F)CN.BrC=1C=C(C=CC1F)CN | 2C7H7BrFN
reactant | HBTU | 2.311 mmol, 876 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 9.63 mmol, 1.342 mL | CCN(CC)CC | C6H15N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | N1-[(3-bromo-4-fluorophenyl)methyl]-N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,1-cyclopropanedicarboxamide | 460 mg, 76.5% | BrC=1C=C(C=CC1F)CN(C(=O)C1(CC1)C(=O)N)CC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C28H34BrFN6O3
